US07199147B2
To a solution of the 1H-indazol-5-ol (200 mg, 1.49 mmol) obtained in Reference Example 4 in tetrahydrofuran (15 ml) were added dropwise trans-2-[3-(1H-indazol-5-yloxy)cyclohexyl]-1H-isoindole-1,3(2H)-dione (366 mg, 1.49 mmol), triphenylphosphine (430 mg, 1.64 mmol) and a 40%-dibenzyl azodicarboxylate-dichloromethane solution (1.03 ml, 1.79 mmol) at 0° C. After 1 hour, the mixture thus obtained was warmed up to room temperature. After stirring overnight, the reaction solution was concentrated under reduced pressure, and the resulting residue was dissolved in chloroform (50 ml) and washed with a 1M-aqueous sodium hydroxide solution (20 ml). Extraction with chloroform (20 ml) was carried out again and the organic layer was dried over anhydrous magnesium sulfate. The organic layer dried was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain a mixture. To this mixture was added 30%-methylamine/ethanol (6 ml) under a nitrogen atmosphere at room temperature, after 15 minutes, then the resulting mixture was refluxed. After 3 hours, the reaction mixture was concentrated under reduced pressure at room temperature and the resulting residue was purified by a silica gel column chromatography (eluent: chloroform/methanol→chloroform/methanol/(1% aqueous ammonia)) to obtain cis-3-(1H-indazol-5-yloxy)cyclohexanamine (98 mg, 29%).

reactant | 1H-indazol-5-ol | 1.49 mmol, 200 mg | N1N=CC2=CC(=CC=C12)O | C7H6N2O
reactant | trans-2-[3-(1H-indazol-5-yloxy)cyclohexyl]-1H-isoindole-1,3(2H)-dione | 1.49 mmol, 366 mg | N1N=CC2=CC(=CC=C12)O[C@@H]1C[C@H](CCC1)N1C(C2=CC=CC=C2C1=O)=O | C21H19N3O3
reactant | triphenylphosphine | 1.64 mmol, 430 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dibenzyl azodicarboxylate dichloromethane | 1.79 mmol, 1.03 ml | N(=NC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1.ClCCl
reactant | methylamine ethanol | 6 ml | CN.C(C)O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | cis-3-(1H-indazol-5-yloxy)cyclohexanamine | 98 mg, 29% | N1N=CC2=CC(=CC=C12)O[C@H]1C[C@H](CCC1)N | C13H17N3O
